US04294960
Phosphoryl chloride (4.6 g.), trimethylsilylacetamide (0.95 g.) and N,N-dimethylformamide (1.2 g.) were added to a stirred suspension of 2-(2-amino-4-thiazolyl)-2-isopropoxyiminoacetic acid (syn isomer, 2.8 g.) in tetrahydrofuran (25 ml.) below 5° C. for 30 minutes [Solution A]. On the other hand, trimethylsilylacetamide (10.5 g.) was added to a suspension of 4-nitrobenzyl 7-amino-3-cephem-4-carboxylate (3.9 g.) in tetrahydrofuran (50 ml.), and stirred at room temperature for 1.5 hours. To the solution was added the above solution A at -20° C. all at once, and the solution was stirred at -5° to 0° C. for 40 minutes. Water (70 ml.) and tetrahydrofuran (100 ml.) were added to the resultant solution at -20° C. The solution was adjusted to pH 7.5 with an aqueous solution of sodium bicarbonate and stirred for an hour. After a saturated aqueous solution of sodium chloride (200 ml.) was added, the organic layer was separated. The remaining aqueous layer was extracted with tetrahydrofuran, and the extract and the above organic layer were combined, washed with a saturated aqueous solution of sodium chloride, dried over magnesium sulfate and then concentrated under reduced pressure. The residue was triturated with diisopropyl ether and the precipitates were collected by filtration to give 4-nitrobenzyl 7-[2-(2-amino-4-thiazolyl)-2-isopropoxyiminoacetamido]-3-cephem-4-carboxylate (syn isomer, 6.0 g.).

reactant | Phosphoryl chloride | 4.6 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | trimethylsilylacetamide | 0.95 g | C[Si](C)(C)CC(=O)N | C5H13NOSi
reactant | 2-(2-amino-4-thiazolyl)-2-isopropoxyiminoacetic acid | 2.8 g | NC=1SC=C(N1)C(C(=O)O)=NOC(C)C | C8H11N3O3S
reactant | trimethylsilylacetamide | 10.5 g | C[Si](C)(C)CC(=O)N | C5H13NOSi
reactant | 4-nitrobenzyl 7-amino-3-cephem-4-carboxylate | 3.9 g | NC1[C@@H]2N(C(=CCS2)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O | C14H13N3O5S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | sodium chloride | 200 ml | [Cl-].[Na+]
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | Water | 70 ml | O | H2O
solvent | N,N-dimethylformamide | 1.2 g | CN(C=O)C | C3H7NO
product | 4-nitrobenzyl 7-[2-(2-amino-4-thiazolyl)-2-isopropoxyiminoacetamido]-3-cephem-4-carboxylate | 6.0 g | NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=CCS2)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O)=NOC(C)C | C22H22N6O7S2
